US06800778B1
(2) Production of ethyl 3-(2-chlorophenyl)-3-hydroxy-2,2-dimethylpropionate
tBuBisP*-RuBr2 (5 mg) was placed in a pressurized hydrogenation reactor equipped with a stirrer chip, and after deaeration, substituted with argon. Thereto was poured a mixture of deaerated ethyl 2,2-dimethyl(2-chlorobenzoyl)acetate (515 mg) (2.0 mmol), methanol (4 ml) and water (0.4 ml). The mixture was stirred under a hydrogen pressure (6 atm) at 70° C. for 24 h. According to the high performance liquid chromatography analysis of the mixture after completion of the reaction, the yield was 97% and enantioselectivity was 90% ee. After the analysis, the reaction mixture was concentrated to dryness and purified by column chromatography (hexane:ethyl acetate=3:1, silica gel: 50 g) to give the title compound (420 mg, 81.8%) as a colorless oil.

reactant | ethyl 2,2-dimethyl(2-chlorobenzoyl)acetate | 2.0 mmol, 515 mg | CC(C(=O)OCC)(C)C(C1=C(C=CC=C1)Cl)=O | C13H15ClO3
reactant | methanol | 4 ml | CO | CH4O
solvent | water | 0.4 ml | O | H2O
product | ethyl 3-(2-chlorophenyl)-3-hydroxy-2,2-dimethylpropionate | 420 mg, 81.8% | ClC1=C(C=CC=C1)C(C(C(=O)OCC)(C)C)O | C13H17ClO3
